US05998608
Synthesis of D-arabinose
Sodium glucoheptonate dihydrate (71.3 g/0.25 mole), cobalt chloride hexahydrate (0.12 g/0.50 mmole) and water (500 ml) are introduced into a double envelope reactor. The mixture is brought to a temperature of 30° C. and to a pH of 6.5 by the addition of soda 2N. The water, oxygenated to 30% (77 ml/0.75 mole), is introduced over 75 minutes, maintaining the temperature between 30 and 35° C. and the pH at 6.5 with the aid of soda 2N. When the addition is finished, the solution is agitated for a further hour. The pH is brought to 2.5 by the addition of concentrated sulphuric acid (8 ml). The pink solution has the following composition:

reactant | Sodium glucoheptonate dihydrate | 0.25 mole, 71.3 g | C([C@H]([C@@H]([C@H]([C@H]([C@H](C(=O)[O-])O)O)O)O)O)O.O.O.[Na+]
catalyst | cobalt chloride hexahydrate | 0.50 mmole, 0.12 g | O.O.O.O.O.O.[Co](Cl)Cl
solvent | water | 500 ml | O | H2O
product | D-arabinose | O=C[C@@H](O)[C@H](O)[C@H](O)CO | C5H10O5
